US05703109
a) 5-[1-(4-cyanophenyl)-3-(4-fluorophenyl)-1-hydroxypropyl]thiazole
5-bromothiazole (1.66 g, 10 mmol) is dissolved in diethyl ether. n-Butyllithium (4.85 ml, 2.5M) is added very slowly under nitrogen atmosphere at -60° C. After stirring for 20 minutes at -60° C. (4-cyanophenyl)-2-(4-fluorophenyl)ethyl ketone (2.5 g, 10 mmol) is added in diethyl ether at the same temperature and the stirring is continued for another 2 hours. The reaction mixture is allowed to warm to room temperature after which it is decomposed with saturated ammonium chloride solution. The diethyl ether layer is separated and the solvent is evaporated. Water is added and the product is extracted into ethyl acetate. After drying and evaporation of the solvent the residue is mixed with ethanol and the black precipitate is filtered off. The ethanol is evaporated and the product is purified by flash chromatography (eluent: dichloromethane/methanol 46:1).

reactant | 5-bromothiazole | 10 mmol, 1.66 g | BrC1=CN=CS1 | C3H2BrNS
reactant | n-Butyllithium | 2.5M, 4.85 ml | C(CCC)[Li]
reactant | (4-cyanophenyl)-2-(4-fluorophenyl)ethyl ketone | 10 mmol, 2.5 g | C(#N)C1=CC=C(C=C1)C(CC(=O)CC(C1=CC=C(C=C1)C#N)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C31H22F2N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-[1-(4-cyanophenyl)-3-(4-fluorophenyl)-1-hydroxypropyl]thiazole | C(#N)C1=CC=C(C=C1)C(CCC1=CC=C(C=C1)F)(O)C1=CN=CS1 | C19H15FN2OS
